US06518222B2
6. Preparation of Methyl 3-methoxy-5-trifluoromethyl-2-thiophenecarboxylate
To a solution of 20 g (88 mmole) of methyl 3-hydroxy-5-trifluoromethyl-2-thiophenecarboxylate in 200 mL of DMSO was added 37 g (260 mmole) of methyl iodide and 25 g (181 mmole) of powdered K2CO3. After 2 hr of stirring, the reaction mixture was poured into water and extracted with ether. The organic phase was separated, washed with water several times, dried over MgSO4, filtered and concentrated to give 20 g of a nearly colorless solid. This solid was further purified by recrystallization from 12:1 hexane:ethyl acetate to give 10.5 g of colorless crystals. The mother liquor was concentrated and purified by column chromatography to give another 8 g (87% yield). mp 78-79° C. 1H NMR (300 MHz, CDCl3): δ 7.2 (s, 1H); 4.0 (s, 3H),; 3.9 (s, 3H). Anal. Calc'd for C8H7F3O3S: C, 40.00; H, 2.94; S, 13.35. Found: C, 39.87; H, 2.94; S, 13.47.

reactant | methyl 3-hydroxy-5-trifluoromethyl-2-thiophenecarboxylate | 88 mmole, 20 g | OC1=C(SC(=C1)C(F)(F)F)C(=O)OC | C7H5F3O3S
reactant | methyl iodide | 260 mmole, 37 g | CI | CH3I
reactant | K2CO3 | 181 mmole, 25 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMSO | 200 mL | CS(=O)C | C2H6OS
product | Methyl 3-methoxy-5-trifluoromethyl-2-thiophenecarboxylate | 10.5 g, 87% yield | COC1=C(SC(=C1)C(F)(F)F)C(=O)OC | C8H7F3O3S
